US07060827B2
In like manner to preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, the reaction of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine and methylamine hydrochloride gave N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.06 (s, 1H), 7.85 (d, 1H, J=3.3 Hz), 7.42 (d, 2H, J=1.2 Hz), 7.35 (s, 1H), 7.29 (d, 1H, J=2.4 Hz). 6.99 (dd, 1H, J=3.3 and 8.7 Hz), 6.78 (d, 1H, J=8.7 Hz), 4.24 (s, 4H), 2.94 (s, 3H); LCMS: ret. time: 18.05 min.; purity: 99%; MS (m/e): 436 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C22H17FN4O5
reactant | methylamine hydrochloride | Cl.CN
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)NC)C1 | C22H18FN5O4
